US04211726
2-Methyl-9,10-anthracenedicarboxaldehyde
To a solution of 1.25 g. of 10-(hydroxymethyl)-2-methyl-9-anthraldehyde in a mixture of 14 ml. of triethylamine and 20 ml. of dry dimethylsulfoxide is added a solution of 4.80 g. of sulfur trioxide pyridine complex in 20 ml. of dry dimethylsulfoxide. The reaction mixture is stirred for one hour and then poured into 200 ml. of water. The solid is collected and washed with water, giving 1.18 g. of the desired product as orange crystals, mp. 150°-152° C.

reactant | 10-(hydroxymethyl)-2-methyl-9-anthraldehyde | OCC1=C2C=CC(=CC2=C(C2=CC=CC=C12)C=O)C | C17H14O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Methyl-9,10-anthracenedicarboxaldehyde | CC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C=O)C=O | C17H12O2
